US08048887B2
Ethyl 5-(3-(tert-butoxycarbonyl)phenyl)-2-(4-fluorophenyl)-6-nitrobenzofuran-3-carboxylate
Cesium carbonate (1.54 g, 4.71 mmol) was added to Pd(Ph3P)4 (182 mg, 0.157 mmol), ethyl 2-(4-fluorophenyl)-6-nitro-5-(trifluoromethylsulfonyloxy)benzofuran-3-carboxylate (1500 mg, 3.14 mmol), 3-(tert-butoxycarbonyl)phenylboronic acid (768 mg, 3.46 mmol). Dioxane (26 mL) and water (5 mL) was added at rt. The reaction was heated to 90° C. overnight. The reaction was allowed to cool was diluted with EtOAc and washed with sat NaHCO3, and sat NaCl. The organic phase was dried over Na2SO4, filtered and concentrated and purified on silica gel (BIOTAGE®, EtOAc/hexanes gradient, fraction collection at λ=254 nm) to give to give the titled compound (1.10 g, 69%). 1H NMR (300 MHz, DMSO-d6) δ ppm 8.60 (1H, s), 8.08-8.18 (2H, m), 8.02 (1H, s), 7.95-8.01 (1H, m), 7.88 (1H, s), 7.58-7.70 (2H, m), 7.46 (2H, t, J=8.78 Hz), 4.34 (2H, q, J=7.20 Hz), 1.56 (9H, s), 1.27 (3H, t, J=7.14 Hz). LC-MS retention time: 2.13 min; m/z (MH+): parent does not ionize. LC data was recorded on a Shimadzu LC-10AS liquid chromatograph equipped with a Waters XBridge 5u C18 4.6×50 mm column using a SPD-10AV UV-Vis detector at a detector wave length of 220 nM. The elution conditions employed a flow rate of 5 ml/min, a gradient of 100% solvent A/0% solvent B to 0% solvent A/100% solvent B, a gradient time of 2 min, a hold time of 1 min, and an analysis time of 3 min where solvent A was 5% acetonitrile/95% H2O/10 mM ammonium acetate and solvent B was 5% H2O/95% acetonitrile/10 mM ammonium acetate. MS data was determined using a MICROMASS® Platform for LC in electrospray mode.

reactant | Cesium carbonate | 4.71 mmol, 1.54 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | ethyl 2-(4-fluorophenyl)-6-nitro-5-(trifluoromethylsulfonyloxy)benzofuran-3-carboxylate | 3.14 mmol, 1500 mg | FC1=CC=C(C=C1)C=1OC2=C(C1C(=O)OCC)C=C(C(=C2)[N+](=O)[O-])OS(=O)(=O)C(F)(F)F | C18H11F4NO8S
reactant | 3-(tert-butoxycarbonyl)phenylboronic acid | 3.46 mmol, 768 mg | C(C)(C)(C)OC(=O)C=1C=C(C=CC1)B(O)O | C11H15BO4
reactant | Dioxane | 26 mL | O1CCOCC1 | C4H8O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Pd(Ph3P)4 | 0.157 mmol, 182 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 5 mL | O | H2O
product | Ethyl 5-(3-(tert-butoxycarbonyl)phenyl)-2-(4-fluorophenyl)-6-nitrobenzofuran-3-carboxylate | 1.10 g, 69% | C(C)(C)(C)OC(=O)C=1C=C(C=CC1)C=1C(=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(=O)OCC)C1)[N+](=O)[O-] | C28H24FNO7
